datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:10](C)=[CH:11][CH2:62][Si:63](C)(C)C.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>C[C:10](C)([CH+:11][CH2:62][Si:63](C)(C)C)[CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[Si:63](C)(C)[O+:12]=[C:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH2:10][C+:11]([C:62]12C3([Si](C)(C)C)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]32(C#[O+])(C#[O+])C#[O+])[C:82]1=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>C[C:62]1=[CH:61][N:10]([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)[CH:11]=[NH+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC(C)[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CC2)[CH:45]=[CH:46]1)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12"
C1CC[N:72]([C:61]([S-:10])=[S:62])CC1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61](=[S:62])[N:72]2CCCCC2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1[CH:10]=[CH:11][CH:62]=[CH:63]1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][CH:10]1C[CH:63]=[CH:62][CH+:11]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.[C-:10]([N+:61]#[N:62])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([C:10]([N+:61]#[N:62])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10=20
"CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72].C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>CC[O:82][C:71]([C:10]1([F:20])CCCC[C:62]1=[O:61])=[O:72].C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10=20;20,21=21"
"Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.[Cl-:10]>>Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.[Cl:10][Cl:20] 10=20;20,21=21,22;22,23=23"
"C1C[CH:63]=[CH:62][CH:11]=[CH:10]1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CC[CH:63]=[CH:62][CH+:11]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[C:22]([CH:21]=[CH2:20])=[O:23].C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>C[C:22](=[CH:21][CH2:20][CH3:10])[O-:23].C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH:10]2)O1.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC1=CC=C([C@H]2N(C)[C:62](=[O:63])[C@H:61](CC3=CC=CC=C3)[NH+:10]2[CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)O1 10=20;20,21=21,22;22,23=23"
"C1C[NH:10]CCO1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCOCC2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
